US04186205
2,3-Di(4-methylthiophenyl)-6,7-dihydro-5H-pyrrolo[1,2-a]-imidazole
To 9.0 g (0.028 mol) of 2-chloro-1,2-di(4-methylthiophenyl)ethanone in 50 ml of dry N,N-dimethylformamide was added 7.0 g (0.084 mol) of 2-amino-4,5-dihydro-3H-pyrrole. The mixture was stirred for 48 hours at ambient temperature, then poured into 1 liter of ice containing 300 ml of 5% aqueous sodium carbonate solution. The precipitate was collected by filtration and dissolved in methylene chloride. The solution was washed with water, dried (K2CO3) and evaporated to give a residue which was chromatographed on alumina and eluted with methylene chloride-methanol (95:5) to give the title compound, m.p. 127°-128°.

reactant | 2-chloro-1,2-di(4-methylthiophenyl)ethanone | 0.028 mol, 9.0 g | ClC(C(=O)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)SC | C16H15ClOS2
reactant | 2-amino-4,5-dihydro-3H-pyrrole | 0.084 mol, 7.0 g | NC1=NCCC1 | C4H8N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2,3-Di(4-methylthiophenyl)-6,7-dihydro-5H-pyrrolo[1,2-a]-imidazole | CSC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=C(C=C1)SC)CCC2 | C20H20N2S2
